US07439237B2
(1d) ethyl (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-hydroxy-propionate
A mixture of 14.3 g (50.0 mmol) (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-hydroxy-propionic acid and 100 ml of ethanol was combined with 100 ml of an approx. 12-molar ethanolic hydrochloric acid solution and stirred overnight. The reaction mixture was evaporated down under reduced pressure.

reactant | (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-hydroxy-propionic acid | 50.0 mmol, 14.3 g | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)O)O)Cl | C10H9ClF3NO3
reactant | hydrochloric acid | approx. 12-molar | Cl | ClH
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-hydroxy-propionate | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)OCC)O)Cl | C12H13ClF3NO3
